US08633190B2
trans-2-Methyl-pyrimidine-4-carboxylic acid [2-(3,5-difluoro-phenyl)-9-fluoro-1-oxo-2-aza-spiro[4.5]dec-7-yl]-amide
To a solution of trans-2-Methyl-pyrimidine-4-carboxylic acid [2-(3,5-difluorophenyl)-9-hydroxy-1-oxo-2-aza-spiro[4.5]dec-7-yl]-amide (crude, <0.121 mmol) in DCM (5 mL) was added DAST (20.3 μL, 0.154 mmol) at 0° C. The reaction mixture was stirred at room temperature overnight and quenched with saturated aqueous NaHCO3. The aqueous layer was extracted with DCM. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was chromatographed on silica gel (0 to 70% EtOAc in hexanes) to give 2 mg of the title compound, trans-2-methyl-pyrimidine-4-carboxylic acid [2-(3,5-difluoro-phenyl)-9-fluoro-1-oxo-2-aza-spiro[4.5]dec-7-yl]-amide. 1H NMR (400 MHz, CDCl3) δ 8.79 (d, J=5.0 Hz, 1H), 8.00 (d, J=8.5 Hz, 1H), 7.82 (t, J=5.0 Hz, 1H), 7.26-7.21 (m, 1H), 6.54 (tt, J=8.8, 2.2 Hz, 1H), 5.22-5.05 (m, 1H), 4.55-4.43 (m, 1H), 3.79-3.66 (m, 2H), 2.71 (s, 3H), 2.45-2.25 (m, 3H), 2.09-1.92 (m, 3H), 1.74-1.54 (m, 2H). ESI-MS m/z: 419 (M+H)+.

reactant | trans-2-Methyl-pyrimidine-4-carboxylic acid [2-(3,5-difluorophenyl)-9-hydroxy-1-oxo-2-aza-spiro[4.5]dec-7-yl]-amide | <0.121 mmol | FC=1C=C(C=C(C1)F)N1C(C2(CC1)C[C@H](C[C@@H](C2)O)NC(=O)C2=NC(=NC=C2)C)=O | C21H22F2N4O3
reactant | DAST | 0.154 mmol, 20.3 μL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | trans-2-Methyl-pyrimidine-4-carboxylic acid [2-(3,5-difluoro-phenyl)-9-fluoro-1-oxo-2-aza-spiro[4.5]dec-7-yl]-amide | 2 mg | FC=1C=C(C=C(C1)F)N1C(C2(CC1)C[C@H](C[C@@H](C2)F)NC(=O)C2=NC(=NC=C2)C)=O | C21H21F3N4O2
